US09357779B2
tert-Butyl 4-[4-(2-cyclohexyl-N-methoxyethanimidoyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate
At room temperature, methoxyammonium chloride (171 mg) was added to a solution of tert-butyl 4-{4-[methoxy(methyl)carbamoyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (403 mg) in ethanol (2 ml). The reaction mixture was stirred at 50° C. for 24 hours, and water was then added. The aqueous phase was separated off and extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified chromatographically. This gave tert-butyl 4-[4-(2-cyclohexyl-N-methoxyethanimidoyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (361 mg).

reactant | methoxyammonium chloride | 171 mg | [Cl-].CO[NH3+]
reactant | tert-butyl 4-{4-[methoxy(methyl)carbamoyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 403 mg | CON(C(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C16H25N3O4S
reactant | water | O | H2O
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | tert-Butyl 4-[4-(2-cyclohexyl-N-methoxyethanimidoyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | C1(CCCCC1)CC(=NOC)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H35N3O3S
